US04487779
1-(2,6-dimethyl-3-hydroxy-phenyl)-3-amidinourea hydrochloride
A mixture of 1-(3-benzyloxy-2,6-dimethylphenyl)-3-amidinourea hydrochloride (17.4 g) and 5% Pd/C (1.0 g) in absolute ethanol (200 ml) containing 50 ml of methanolic HCl is shaken under an atmosphere of H2 (50 psi) for 45 minutes. The reaction mixture is filtered through Celite and the Celite washed with methanol. The filtrate is concentrated in vacuo and the foam taken up in acetonitrile. The acetonitrile solution is concentrated in vacuo and the residue crystallized from methanol/acetonitrile to give, after filtering and vacuum drying, 10.1 grams of the 3-hydroxy phenyl amidinourea hydrochloride salt, M.P. 207°-208° C. (dec).

reactant | 1-(3-benzyloxy-2,6-dimethylphenyl)-3-amidinourea hydrochloride | 17.4 g | Cl.C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)C)NC(=O)NC(N)=N)C
reactant | HCl | 50 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 1-(2,6-dimethyl-3-hydroxy-phenyl)-3-amidinourea hydrochloride | Cl.CC1=C(C(=CC=C1O)C)NC(=O)NC(N)=N | InChI=1S/C10H14N4O2.ClH/c1-5-3-4-7(15)6(2)8(5)13-10(16)14-9(11)12;/h3-4,15H,1-2H3,(H5,11,12,13,14,16);1H
